US05296493
N-(2-phenylethyl)-aniline.
A mixture of aniline (9.1 ml, 100 mmol), phenethylbromide 18.5 g, 100 mmol), potassiumcarbonate (13.8 g, 100 mmol) and 50 ml dimethylsulfoxide is stirred at ambient temperature for 72 hours, and is diluted with 200 ml water. The mixture is extracted three times with diethylether and the combined organic phases is washed with water and brine and dried over magnesium sulphate. The solution is concentrated in vacuo and the crude product is subjected to a vacuum distillation yielding the title compound as a colourless oil dest. 120°-128° C./0.7 mbar.

reactant | aniline | 100 mmol, 9.1 ml | NC1=CC=CC=C1 | C6H7N
reactant | phenethylbromide | 100 mmol, 18.5 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassiumcarbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | N-(2-phenylethyl)-aniline | C1(=CC=CC=C1)CCNC1=CC=CC=C1 | C14H15N
